US07067517B2
Methyl-phenyl-carbamic acid 1-oxo-indan-4-yl ester
The title product was prepared from 4-hydroxyindanone and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (77%, light yellow oil).

reactant | 4-hydroxyindanone | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 1-oxo-indan-4-yl ester | O=C1CCC2=C(C=CC=C12)OC(N(C1=CC=CC=C1)C)=O | C17H15NO3
